US07476742B2
Ethyl [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate (0.058 g, 0.12 mmol) was dissolved in EtOH (1 mL), and LiOH.H2O (0.025 g, 0.6 mmol) was added. Water (1 mL) was added, followed by THF was added until the cloudy solution became clear. The resulting mixture was stirred overnight at rt. HCl (2 N) was added to adjust the pH to 2, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried, filtered and evaporated. The residue was purified by preparative HPLC to obtain [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1 H-inden-1-yl]acetic acid (0.038 g, 0.08 mmol) in 70% yield. 1H NMR ((CDCl3) δ 1.8 (m, 1H), 2.4 (m, 3H), 3.0 (t, 2H), 3.3 (m, 4H), 3.5 (m, 1H), 3.9 (m, 4H), 4.2 (t, 2H), 6.7 (m, 1H), 6.8 (s, 1H), 6.9 (d, 2H), 7.1 (d, 1H), 7.9 (d, 2H); MS (ES) 463 (M+1)+.

reactant | Ethyl [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1H-inden-1-yl]acetate | 0.12 mmol, 0.058 g | CC1=C(N=C(O1)C1=CC=C(C=C1)N1CCOCC1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)OCC | C29H34N2O5
reactant | LiOH.H2O | 0.6 mmol, 0.025 g | O[Li].O
reactant | Water | 1 mL | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | [(1S)-5-(2-{5-methyl-2-[4-(4-morpholinyl)phenyl]-1,3-oxazol-4-yl}ethoxy)-2,3-dihydro-1 H-inden-1-yl]acetic acid | 0.08 mmol, 0.038 g, 70% yield | CC1=C(N=C(O1)C1=CC=C(C=C1)N1CCOCC1)CCOC=1C=C2CC[C@H](C2=CC1)CC(=O)O | C27H30N2O5
